US07268232B2
4-(8-Azaspiro[4.5]dec-8-yl)naphthalene-1-carbonitrile (159JP61AA).
4-Amino-1-naphthalenecarbonitrile (168.20 mg), 3,3-tetramethylene-1,5-dibromopentane (284 mg, 1.0 mmol, Klitgaard, N. et al., Acta Chem. Scand. 1970, 24, 33-42), N,N-diisopropylethylamine (323 mg, 2.5 mmol) and toluene (15 mL) were heated to 120° C. for 16 h. The crude product was poured in water (100 mL), extracted with ethyl acetate (3×100 mL), the combined organic layers dried over sodium sulfate, filtered and concentrated in vacuo. Purification by preparative TLC (dichloromethane, 3× eluted) afforded the title compound (14 mg, 5.0%) as an off-white solid.

reactant | 4-Amino-1-naphthalenecarbonitrile | 168.20 mg | NC1=CC=C(C2=CC=CC=C12)C#N | C11H8N2
reactant | N,N-diisopropylethylamine | 2.5 mmol, 323 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
product | 4-(8-Azaspiro[4.5]dec-8-yl)naphthalene-1-carbonitrile | 14 mg, 5.0% | C1CCCC12CCN(CC2)C2=CC=C(C1=CC=CC=C21)C#N | C20H22N2
